US05654472
A 300 ml reaction vessel was charged with 5 g of 2-(2,4-difluorophenyl)-1,2,3-propanetriol, 100 ml of diisopropanol, 2.45 ml of acetic anhydride and 5 g of Novozym 435 made by NOVO NORDISK, Ltd. (derived from Candida antarctica, Enzyme No. 24). The resulting mixture was stirred at 30° C. for 15 hours. After 10 ml of water was added thereto, the reaction liquid was filtered to remove the enzyme. An organic layer of the filtrate was dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1/1) to give 1 g of (S)-2-(2,4-difluorophenyl)-1-acetoxy-1,2-propanediol. The optical purity thereof was 8% ee.

reactant | 2-(2,4-difluorophenyl)-1,2,3-propanetriol | 5 g | FC1=C(C=CC(=C1)F)C(CO)(CO)O | C9H10F2O3
reactant | diisopropanol | 100 ml | CC(CCC(C)O)O | C6H14O2
reactant | acetic anhydride | 2.45 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 10 ml | O | H2O
product | (S)-2-(2,4-difluorophenyl)-1-acetoxy-1,2-propanediol | 1 g | FC1=C(C=CC(=C1)F)C([C@@H](O)OC(C)=O)(C)O | C11H12F2O4
